US07838498B2
To a solution of (5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)phenyl)methanol (0.783 g, 1 mmol) (V-1) in toluene (2 mL) was added ADDP (2 mmol) at room temperature. The mixture was stirred for 10 min and then Bu3P (2 mmol) was added. After stirring for 1 h, CF3CH2OH (1.0 g, 10 mmol) was added. The mixture was stirred overnight. After removal of volatiles under reduced pressure, the residue was purified by preparative LC-MS to obtain (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-((2,2,2-trifluoroethoxy)methyl)phenyl)tetrahydro-2H-pyran (intermediate V-2).

reactant | (5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)phenyl)methanol | 1 mmol, 0.783 g | ClC=1C(=CC(=C(C1)CO)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)CC | C50H51ClO6
reactant | ADDP | 2 mmol | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | Bu3P | 2 mmol | P(CCCC)(CCCC)CCCC | C12H27P
reactant | CF3CH2OH | 10 mmol, 1.0 g | C(F)(F)(F)CO | C2H3F3O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | (2R,3R,4R,5S,6S)-3,4,5-tris(benzyloxy)-2-(benzyloxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-((2,2,2-trifluoroethoxy)methyl)phenyl)tetrahydro-2H-pyran | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)COCC(F)(F)F)COCC1=CC=CC=C1 | C52H52ClF3O6
